US07410988B2
N-(4-(3-Chlorophenyl)thiazol-2-yl)-N-(3-morpholinopropyl)thiophene-2-carboxamide
A mixture of 3-chlorophenacyl bromide (467 mg, 2 mmol) and (3-morpholin-4-yl-propyl)-thiourea (407 mg, 2 mmol) in dry ethanol (4 ml) was heated at reflux for 2 min, cooled to room temperature, and concentrated in vacuo. The resulting residue was suspended in dichloromethane (5 mL) followed by the addition of N,N-diisopropylethylamine (554 μL, 3 mmol) and thiophene-2-carbonyl chloride (160 μL, 1.5 mmol). The reaction mixture was maintained at room temperature overnight, then concentrated in vacuo. The resulting residue was dissolved in DMSO (3 mL) and subjected to HPLC purification (Method Y). The resulting free amine was dissolved in MeOH (2 mL) and 1M HCl/ether (75 mL) was added. The precipitate was filtered and dried in vacuo to provide the title compound (367 mg) as an off-white solid as the hydrochloride salt. LC/MS (ESI) m/z 447.9 [M+H]. HPLC retention time (Method A)=2.95 min.

reactant | 3-chlorophenacyl bromide | 2 mmol, 467 mg | ClC=1C=C(C(CBr)=O)C=CC1 | C8H6BrClO
reactant | (3-morpholin-4-yl-propyl)-thiourea | 2 mmol, 407 mg | N1(CCOCC1)CCCNC(=S)N | C8H17N3OS
reactant | N,N-diisopropylethylamine | 3 mmol, 554 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | thiophene-2-carbonyl chloride | 1.5 mmol, 160 μL | S1C(=CC=C1)C(=O)Cl | C5H3ClOS
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | N-(4-(3-Chlorophenyl)thiazol-2-yl)-N-(3-morpholinopropyl)thiophene-2-carboxamide | 367 mg | ClC=1C=C(C=CC1)C=1N=C(SC1)N(C(=O)C=1SC=CC1)CCCN1CCOCC1 | C21H22ClN3O2S2
